US09260422B2
4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine
Potassium carbonate (2M solution, 200 ml, 400.0 mmol) was added in one portion to a stirred solution of 3,4-dichlorophenyl boronic acid (38.5 g, 201.4 mmol) and 4,6-dichloropyrimidine (50.0 g, 335.6 mmol) in dioxane (600 ml). The mixture was degassed with nitrogen for 5 minutes, after which time palladium tetrakis triphenylphosphine (7.78 g, 6.71 mmol) was added in one portion, the mixture was then heated to 90° C. and stirred at this temperature for 16 hours under a nitrogen atmosphere. After this time the reaction mixture was cooled to room temperature and concentrated. The resulting residue was dissolved in DCM (500 ml), washed sequentially with water (200 ml) then brine (200 ml) before being dried (MgSO4), filtered and concentrated to give the title compound (47.8 g, 91% yield) as a white solid which was used without further purification. Tr=2.32 min m/z (ES+) (M+H+) 258, 260.

reactant | Potassium carbonate | 400.0 mmol, 2M, 200 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorophenyl boronic acid | 201.4 mmol, 38.5 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | 4,6-dichloropyrimidine | 335.6 mmol, 50.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | dioxane | 600 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine | 47.8 g, 91% yield | ClC1=NC=NC(=C1)C1=CC(=C(C=C1)Cl)Cl | C10H5Cl3N2
